US05847239
A process according to claim 8, wherein dihydromyrcene is reacted with acetic acid to produce dihydromyrcenyl acetate, which is then reacted with 4-tertiarybutylcyclohexanol to produce dihydromyrcenol and 4-tertiarybutylcyclohexyl acetate.

reactant | dihydromyrcene | CC(CCC=C(C)C)C=C | C10H18
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | dihydromyrcenyl acetate | CC(CCCC(C)(C)OC(=O)C)C=C | C12H22O2
